US20010036944A1
a. Preparation of 5bromo-2,3-dihydroxybenzaldehyde
To dichloromethane (400 mL) was added 5bromo-2-hydroxy-3-methoxy-benzaldehyde (prepared per Synthetic Communications, 1991;21-(8,9):1091-5; 94.6 g, 409.4 mmol). To this was added with cooling to 10° C. a solution of boron tribromide (153.9 g, 614 mmol) in dichloromethane (400 mL) over 20 minutes, followed by warming to 25° C. overnight. The mixture was poured into 2 L of ice and extracted with chloroform. The chloroform solution was washed with brine, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated in vacuo and hexane was added giving a crystalline precipitate which was filtered, washed with hexane, and dried in vacuo to a solid, 80.0 g, 90% yield. NMR spectra and elemental analysis were consistent with the structure.

reactant | 5bromo-2-hydroxy-3-methoxy-benzaldehyde | 409.4 mmol, 94.6 g | BrC=1C=C(C(=C(C=O)C1)O)OC | C8H7BrO3
reactant | boron tribromide | 614 mmol, 153.9 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 5bromo-2,3-dihydroxybenzaldehyde | 90% yield | BrC=1C=C(C(=C(C=O)C1)O)O | C7H5BrO3
